US06743794B2
(4-Methylpiperazin-1-yl)phenylacetic Acid Methyl Ester
To a solution of racemic α-bromophenylacetic acid methyl ester, 5.0 g (22.0 mmol) in 200 mL of tetrahydrofuran was added 3.4 mL (22.0 mmol) of triethylamine and 7.3 g (66.0 mmol) of 1-methylpiperazine. The reaction mixture was refluxed for three hours, cooled to ambient temperature and concentrated to dryness. The residue was partitioned between 20% isopropano/chloroform and water. The mixture was washed with saturated sodium bicarbonate, washed with bane, dried over sodium sulfate, filtered and concentrated to dryness. The residue was purified by chromatography using a methanol/chloroform gradient as eluent. A second purification was performed using methanol/chloroform as eluent and was concentrated to dryness to yield 5.21 g (95%) of the desired mixture of isomers as a yellow oil. MS (ion spray) 249.1 (M+).

reactant | racemic α-bromophenylacetic acid methyl ester | COC(C(Br)C1=CC=CC=C1)=O | C9H9BrO2
reactant | triethylamine | 22.0 mmol, 3.4 mL | C(C)N(CC)CC | C6H15N
reactant | 1-methylpiperazine | 66.0 mmol, 7.3 g | CN1CCNCC1 | C5H12N2
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
product | (4-Methylpiperazin-1-yl)phenylacetic Acid Methyl Ester | 5.21 g, 95% | COC(C(C1=CC=CC=C1)N1CCN(CC1)C)=O | C14H20N2O2
